US07238689B2
To a solution of 0.43 g (1.6 mmoles) of triphenylphosphine dissolved in 10 ml of benzene were added 0.14 g (1.6 mmoles) of cyclopentanol, 0.5 g (1.6 mmoles) of 5,5dimethyl-3-(5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline and 0.7 g (1.6 mmoles) of di-ethyl azodicarboxylate (a 40%, toluene solution). The mixture was stirred at room temperature for 12 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting organic layer was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica, gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 0.52 g (yield: 85.2%) of 3-(5-cyclopentyloxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline as a colorless transparent oily substance.

reactant | triphenylphosphine | 1.6 mmoles, 0.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentanol | 1.6 mmoles, 0.14 g | C1(CCCC1)O | C5H10O
reactant | 5,5dimethyl-3-(5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 1.6 mmoles, 0.5 g | CC1(CC(=NO1)SCC=1C(=NN(C1O)C)C(F)(F)F)C | C11H14F3N3O2S
reactant | di-ethyl azodicarboxylate | 1.6 mmoles, 0.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(5-cyclopentyloxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 0.52 g, yield: 85.2% | C1(CCCC1)OC1=C(C(=NN1C)C(F)(F)F)CSC1=NOC(C1)(C)C | C16H22F3N3O2S
